US06756378B2
To a mixture of methyl 4-amino-3-chlorophenylacetate (1.00 g, 5.01 mmol) and 2-methylphenyl isocyanate (0.60 ml, 5.01 mmol) in THF (20 ml) was added Et3N (0.14 ml, 1.00 mmol) at room temperature. After 1 day stirring, 2-methylphenyl isocyanate (0.60 ml, 5.01 mmol) was added to the reaction mixture and stirred 17 h. The reaction mixture was concentrated in vacuo. The residue was triturated by the addition of n-hexane to give methyl 3-chloro-4-[N′-(2-methylphenyl)ureido]phenylacetate (1.23 g, 74%) as a colorless powder. 1H-NMR (CDCl3) δ2.34 (s, 3H, 3.54 (s, 2H), 3.68 (s, 3H), 6.24 (br, 1H), 6.99 (br, 1H), 7.15 (dd, J=8.3, 2.0 Hz, 1H), 7.21-7.31 (m, 5H), 7.44 (d, J=7.6 Hz, 1H), 8.20 (d, J=8.5 Hz, 1H); MS (ESI) m/z 333 (M++1), 335 (M++3).

reactant | methyl 4-amino-3-chlorophenylacetate | 5.01 mmol, 1.00 g | NC1=C(C=C(C=C1)CC(=O)OC)Cl | C9H10ClNO2
reactant | 2-methylphenyl isocyanate | 5.01 mmol, 0.60 ml | CC1=C(C=CC=C1)N=C=O | C8H7NO
reactant | Et3N | 1.00 mmol, 0.14 ml | CCN(CC)CC | C6H15N
reactant | 2-methylphenyl isocyanate | 5.01 mmol, 0.60 ml | CC1=C(C=CC=C1)N=C=O | C8H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | methyl 3-chloro-4-[N′-(2-methylphenyl)ureido]phenylacetate | 1.23 g, 74% | ClC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC | C17H17ClN2O3
